US03978224
5-Chloro-3-(2,4-dichlorophenyl)-2-[N(2-cyanoethyl)aminomethyl]indole hydrochloride
Treat 2-aminomethyl-5-chloro-3-(2,4-dichlorophenyl)indole with acrylonitrile in the same manner as in Example 1 to obtain the title compound which melts at 209°-210°C.

reactant | 2-aminomethyl-5-chloro-3-(2,4-dichlorophenyl)indole | NCC=1NC2=CC=C(C=C2C1C1=C(C=C(C=C1)Cl)Cl)Cl | C15H11Cl3N2
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 5-Chloro-3-(2,4-dichlorophenyl)-2-[N(2-cyanoethyl)aminomethyl]indole hydrochloride | Cl.ClC=1C=C2C(=C(NC2=CC1)CNCCC#N)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C18H14Cl3N3.ClH/c19-11-3-5-16-14(8-11)18(13-4-2-12(20)9-15(13)21)17(24-16)10-23-7-1-6-22;/h2-5,8-9,23-24H,1,7,10H2;1H
